US08012998B2
b) [(3SR,4RS)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methanol
To a solution of (3SR,4RS)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid ethyl ester (1.00 g, 2.64 mmol) in THF (15 mL) at 0° C. were added portion wise LiAlH4 (211 mg, 5.56 mmol). Stirring was continued for 2 hours, and the reaction mixture was quenched by addition of aq. NH4Cl, concentrated under vacuo and the product extracted with EtOAC. The combined organic phases were dried on Na2SO4 and concentrated under vacuo. Flash chromatography (SiO2, EtOAc) to yield 0.70 g (79%) of the title product as a white solid ES-MS m/e: 336.3 (M+H+).

reactant | (3SR,4RS)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid ethyl ester | 2.64 mmol, 1.00 g | C(C)OC(=O)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1 | C20H21Cl2NO2
reactant | LiAlH4 | 5.56 mmol, 211 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [(3SR,4RS)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methanol | 0.70 g, 79% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)CO | C18H19Cl2NO
